### PR TITLE
Address Patrick's comments regarding syntax and macros

### PR DESCRIPTION
**Pull request by hargoniX**
This addresses Patrick's comments from #39 regarding syntax and macros, in particular:
- [x] Syntax with binder notation
- [x] Explanation for the need of the `MonadQuotation` mechnaism
- [x] Precedence

### CODE REVIEW

File: lean/main/syntax.lean [hunk 1]
```diff
@@ -399,3 +449,92 @@ Feel free to play around with this example and extend it in whatever way
...
+notation:100 x " ∈ " s:99 => Set.mem x s
+
+def Set.empty : Set α := λ _ => False
+
+instance : Subset (Set α) where
+  subset X Y := ∀ (x : α), x ∈ X → x ∈ Y
+
+example : ∀ (X : Set α), Set.empty ⊆ X:= by
+  intro X x
+  -- ⊢ Set.mem x (Set.empty α) → Set.mem x X
```
Comment (PatrickMassot) [inline lean/main/syntax.lean:502]: Why don't we see the notation from line 493 here? This comment sounds like the whole experiment failed.

File: lean/main/syntax.lean [hunk 2]
```diff
@@ -399,3 +449,92 @@ Feel free to play around with this example and extend it in whatever way
...
+  intro h
+  exact False.elim h -- empty set has no members
+
+/-!
+### Binders
+Because declaring syntax that uses variable binders used to be quite a
+weird thing to do in Lean 3 we'll take a brief look at how naturally
```
Comment (PatrickMassot) [inline lean/main/syntax.lean:509]: I'm sure we can have a more neutral wording than "weird thing".

File: lean/main/macros.lean [hunk 3]
```diff
@@ -272,7 +287,76 @@ as an inductive, you could then write a function that takes some form of
...
+-/
+syntax ident " : " term : binder_construct
+syntax ident " ∈ " term : binder_construct
+
+/-!
+And finally the macros to expand our syntax:
+-/
+
+macro_rules
+  | `({ $id:ident : $ty:term | $body:term }) => `(setOf (fun ($id : $ty) => $body))
```
Comment (PatrickMassot) [inline lean/main/macros.lean:336]: I think `id` isn't the greatest variable name because of the potential confusion with the identity function.

File: lean/main/macros.lean [hunk 4]
```diff
@@ -272,7 +287,76 @@ as an inductive, you could then write a function that takes some form of
...
+example : 1 ∈ { y : Nat | y ≤ 1} := by decide
+example : 2 ∈ { y : Nat | y ≤ 3 ∧ 1 ≤ y} := by decide
+
+-- New examples:
+def oneSet : Set Nat := λ x => x = 1
+#check { x ∈ oneSet | 10 ≤ x } -- setOf fun x => x ∈ oneSet ∧ 10 ≤ x : Set Nat
+
+example : ∀ x, ¬(x ∈ { y ∈ oneSet | y ≠ 1 }) := by
+  intro x h
+  -- h : x ∈ setOf fun y => y ∈ oneSet ∧ y ≠ 1
```
Comment (PatrickMassot) [inline lean/main/macros.lean:351]: This is rather disappointing since it suggests that tactic state display is ignoring our efforts to get nice notations.

**Review by PatrickMassot — COMMENTED** [review]
Thanks for adding all this! I left some comments.

File: lean/main/macros.lean (hunk 4 above)
Comment (hargoniX) [reply lean/main/macros.lean:351]: Notation that is implemented via macros as opposed to `notation` or `infix` will not get an automatic pretty printer generated for it and will thus appear in this more "naked" form. The pretty printer chapter explains how one might write a pretty printer that shows the notation as you would expect it.

File: lean/main/syntax.lean [hunk 5]
```diff
@@ -399,3 +449,92 @@ Feel free to play around with this example and extend it in whatever way
...
+-- precedence is arbitrary for this example
+infix:50 " ⊆ " => Subset.subset
+
+/-!
+Let's define a simple theory of sets to test it:
+-/
+
+-- a `Set` is defined by the elements it contains
+-- -> a simple predicate on the type of its elements
+abbrev Set (α : Type u) := α → Prop
```
[the remark this answers is not in the document]
Comment (hargoniX) [reply lean/main/syntax.lean:485]: Yes, the `decide` tactic attempts to find a `Decidable` instance for what we throw at it, type class synthesis does not attempt to look through definitions that are not tagged as `reducible` (which is what `abbrev` is a short cut for), thus the proof wouldn't look as clean if we didn't use `abbrev`.
